US09359336B2
To the nitrogen bubbled solution of 3-(2-(3-((tert-butyldimethylsilyl)oxy)propyl)-2H-tetrazol-5-yl)-5-iodopyridine (89 mg, 0.2 mmol, 1 eq), N-(3-ethynylphenyl)-3-methylfuran-2-carboxamide (67.5 mg, 1.5 eq), triphenylphosphine (1.3 mg, 0.025 eq), and triethylamine (0.09 mL, 3 eq) in anhydrous DMF (2 mL) was added bis(triphenylphosphine)palladium(II) dichloride (14 mg, 0.1 eq), and copper(I) iodide (8 mg, 0.2 eq). After the reaction mixture was stirred at room temperature for 20 minutes, it was diluted with ethyl acetate, washed sequentially with saturated aqueous sodium bicarbonate, aqueous ammonium chloride, brine, and dried with anhydrous sodium sulfate. The upper liquor was decanted, concentrated under reduced pressure, and the resulting brown oily residue was loaded onto silica and columned (EtOAc-Hex 1:20 to 1:4). The fractions containing the desired product were collected, concentrated to a lesser amount, and the white fluffy solid was filtered giving N-(3-((5-(2-(3-((tert-butyldimethylsilyl)oxy)propyl)-2H-tetrazol-5-yl)pyridin-3-yl)ethynyl)phenyl)-3-methylfuran-2-carboxamide in an the amount of 78 mg.

reactant | 3-(2-(3-((tert-butyldimethylsilyl)oxy)propyl)-2H-tetrazol-5-yl)-5-iodopyridine | 0.2 mmol, 89 mg, 1 eq | [Si](C)(C)(C(C)(C)C)OCCCN1N=C(N=N1)C=1C=NC=C(C1)I | C15H24IN5OSi
reactant | N-(3-ethynylphenyl)-3-methylfuran-2-carboxamide | 67.5 mg, 1.5 eq | C(#C)C=1C=C(C=CC1)NC(=O)C=1OC=CC1C | C14H11NO2
reactant | triphenylphosphine | 1.3 mg, 0.025 eq | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | triethylamine | 0.09 mL, 3 eq | C(C)N(CC)CC | C6H15N
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | bis(triphenylphosphine)palladium(II) dichloride | 14 mg, 0.1 eq | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) iodide | 8 mg, 0.2 eq | [Cu]I
product | N-(3-((5-(2-(3-((tert-butyldimethylsilyl)oxy)propyl)-2H-tetrazol-5-yl)pyridin-3-yl)ethynyl)phenyl)-3-methylfuran-2-carboxamide | [Si](C)(C)(C(C)(C)C)OCCCN1N=C(N=N1)C=1C=C(C=NC1)C#CC=1C=C(C=CC1)NC(=O)C=1OC=CC1C | C29H34N6O3Si
